US07592363B2
Preparation of 3-{4-[2-benzyl-7-(trifluoromethyl)-2H-indazol-3-yl]phenoxy}-N-methoxy-N-methylbenzamide
A reaction mixture of 3-{4-[2-benzyl-7-(trifluoromethyl)-2H-indazol-3-yl]phenoxy}benzoic acid (115.8 mg, 0.237 mmol), (3-dimethylamino-propyl)-ethyl-carbodiimide hydrochloride (86 mg, 0.356 mmol), O,N-dimethyl-hydroxylamine hydrochloride (69 mg, 0.711 mmol) and 0.3 mL of triethylamine dissolved in 2 mL CH2Cl2 was stirred at room temperature overnight. The reaction mixture was quenched with 1M HCl(aq) and the crude material was extracted with CH2Cl2. The crude material was purified with flash chromatography using EtOAc/heptane, 3:7, as eluent to afford 17 mg of analytically pure product.

reactant | 3-{4-[2-benzyl-7-(trifluoromethyl)-2H-indazol-3-yl]phenoxy}benzoic acid | 0.237 mmol, 115.8 mg | C(C1=CC=CC=C1)N1N=C2C(=CC=CC2=C1C1=CC=C(OC=2C=C(C(=O)O)C=CC2)C=C1)C(F)(F)F | C28H19F3N2O3
reactant | (3-dimethylamino-propyl)-ethyl-carbodiimide hydrochloride | 0.356 mmol, 86 mg | Cl.CN(CCCN=C=NCC)C
reactant | O,N-dimethyl-hydroxylamine hydrochloride | 0.711 mmol, 69 mg | Cl.CONC
reactant | triethylamine | 0.3 mL | C(C)N(CC)CC | C6H15N
solvent | CH2Cl2 | 2 mL | C(Cl)Cl | CH2Cl2
product | 3-{4-[2-benzyl-7-(trifluoromethyl)-2H-indazol-3-yl]phenoxy}-N-methoxy-N-methylbenzamide | C(C1=CC=CC=C1)N1N=C2C(=CC=CC2=C1C1=CC=C(OC=2C=C(C(=O)N(C)OC)C=CC2)C=C1)C(F)(F)F | C30H24F3N3O3
